US08957205B2
N-[[1-[(2-Benzothienylcarbonyl)amino]cyclohexyl]carbonyl]-L-methionine
10 ml of N-methylmorpholine was added to 522 mg (3.5 mmol) of L-methionine and 500 mg (1.75 mmol) of 2-(2-benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one, and the mixture was stirred and refluxed under heating overnight. The reaction solution was distilled off under reduced pressure, a 10% aqueous potassium hydrogensulfate solution was added thereto, and the mixture was extracted with methylene chloride three times. The obtained organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the obtained residue, and the mixture was stirred overnight. The precipitated solid was collected by filtration and dried under reduced pressure to obtain 170 mg (22%) of the title compound.

reactant | L-methionine | 3.5 mmol, 522 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | 2-(2-benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 1.75 mmol, 500 mg | S1C(=CC2=C1C=CC=C2)C2=NC1(C(O2)=O)CCCCC1 | C16H15NO2S
solvent | N-methylmorpholine | 10 ml | CN1CCOCC1 | C5H11NO
product | N-[[1-[(2-Benzothienylcarbonyl)amino]cyclohexyl]carbonyl]-L-methionine | 170 mg, 22% | S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)N[C@@H](CCSC)C(=O)O | C21H26N2O4S2
